US08633207B2
To 2-(2,2-difluoro-2-(5-fluoropyridin-2-yl)acetamido)benzamide (580 mg, 1.87 mmol) were added dichloroethane (15 mL) and TEA (11 mL, 75 mmol) followed by chlorotrimethylsilane (3.56 mL, 28 mmol) and the mixture was heated at 85° C. for 2-3 h. The mixture was concentrated to dryness and the residue was partitioned between saturated aq ammonium chloride and EtOAc. The organic layer was concentrated and the residue was purified by silica gel chromotography eluting with 0-10% MeOH/DCM to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazolin-4-ol as a solid (500 mg, 91%). LC-MS (ESI) m/z 292 (M+H)+.

reactant | 2-(2,2-difluoro-2-(5-fluoropyridin-2-yl)acetamido)benzamide | 1.87 mmol, 580 mg | FC(C(=O)NC1=C(C(=O)N)C=CC=C1)(C1=NC=C(C=C1)F)F | C14H10F3N3O2
reactant | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
reactant | chlorotrimethylsilane | 28 mmol, 3.56 mL | Cl[Si](C)(C)C | C3H9ClSi
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)quinazolin-4-ol | 500 mg, 91% | FC(C1=NC2=CC=CC=C2C(=N1)O)(C1=NC=C(C=C1)F)F | C14H8F3N3O
